US06939885B2
To a magnetically stirred solution of N-(4-chloro-phenyl)-2,2-dimethyl-propionamide (3.16 g, 14.9 mmol) in dry THF was added 2.5M n-butyllithium in hexane at −40° C. and the mixture was stirred at 0° C. for 2 h and a suspension of white solid resulted. A solution of the Weinreb amide (1.80 g, 10.0 mmol) in dry THF was added drop wise and the reaction was stirred at ambient temp overnight. The mixture was diluted with water and extracted with ethyl acetate and the organic layer was dried (MgSO4), filtered and concentrated. Chromatography on silica gel (20-30% EtOAc/Hexane) provided the desired N-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-2,2-dimethyl-propionamide as a waxy bright yellow solid (2.28 g, 6.89 mmol): 1H NMR (CDCl3) δ 11.71 (s, 1H, NH), 8.82 (d, 1H, J=9.2 Hz), 8.67 (dd, 1H, J=4.8 Hz, J=1.8 Hz), 7.55 (m, 2H), 7.28 (d, 1H, J=2.5 Hz), 7.25 (m, 1H), 2.54 (s, 3H), 1.39 (s, 9H).

reactant | N-(4-chloro-phenyl)-2,2-dimethyl-propionamide | 14.9 mmol, 3.16 g | ClC1=CC=C(C=C1)NC(C(C)(C)C)=O | C11H14ClNO
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | N-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-2,2-dimethyl-propionamide | 6.89 mmol, 2.28 g | ClC1=CC(=C(C=C1)NC(C(C)(C)C)=O)C(=O)C=1C(=NC=CC1)C | C18H19ClN2O2
